US08557872B2
Step 1: Synthesis of 3-(2-butoxy-4-fluoro-phenyl)-acrylic acid methyl ester
3-(4-Fluoro-2-hydroxy-phenyl)-acrylic acid methyl ester (106 mg) was reacted with K2CO3 (125 mg) and butyl iodide (0.1 ml) at 80° C. for 3 hrs as described above to yield title compound (121 mg).

reactant | 3-(4-Fluoro-2-hydroxy-phenyl)-acrylic acid methyl ester | 106 mg | COC(C=CC1=C(C=C(C=C1)F)O)=O | C10H9FO3
reactant | K2CO3 | 125 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | butyl iodide | 0.1 ml | C(CCC)I | C4H9I
product | 3-(2-butoxy-4-fluoro-phenyl)-acrylic acid methyl ester | 121 mg | COC(C=CC1=C(C=C(C=C1)F)OCCCC)=O | C14H17FO3
